US04124719
The starting material was produced as follows: 2.74 g of Cyclopropanecarboxylic acid chloride was added dropwise to a solution of 7.2 g of (3aRS, 4SR, 7aRS)-4-p-chlorophenylhexahydro-4-indolinol and 2.5 ml of pyridine in 30 ml of methylene chloride at 0° to 10°. The mixture was stirred at room temperature for 1 hour, and then was washed first with a 10% tartaric acid solution, then with a sodium bicarbonate solution, then with a saturated salt solution. The organic phase was dried over sodium sulphate and concentrated to afford (3aRS, 4SR, 7aRS)-4-p-chlorophenyl-1-cyclopropylcarbonylhexahydro-4-indolinol. (M.P. 167°-169°).

reactant | Cyclopropanecarboxylic acid chloride | 2.74 g | C1(CC1)C(=O)Cl | C4H5ClO
reactant | 4-p-chlorophenylhexahydro-4-indolinol | ClC1=CC=C(C=C1)C1(C2CCNC2CCC1)O | C14H18ClNO
reactant | pyridine | 2.5 ml | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | 4-p-chlorophenyl-1-cyclopropylcarbonylhexahydro-4-indolinol | ClC1=CC=C(C=C1)C1(C2CCN(C2CCC1)C(=O)C1CC1)O | C18H22ClNO2
